US08013003B2
N-(trans-4-Aminocyclohexyl)-N-methyl-[2,1,3]-benzoxadiazole-5-carboxamide
N-(trans-4-Azidocyclohexyl)-N-methyl-[2,1,3]-benzoxadiazole-5-carboxamide (0.18 g, 0.6 mmol) was dissolved in pyridine (4 ml), Ph3P (0.26 g, 1.0 mmol) was added, and the mixture stirred for 1 hour at room temperature. Conc. ammonia solution (6 ml) was slowly added and the mixture stirred for 2 h at 20° C. before evaporating under vacuum and purifying the crude product on silica gel, eluting with chloroform/methanol/triethylamine (90:10:1), to give a white solid after trituration with diethyl ether (0.067 g). Mp=145-146° C., 1H NMR (300 MHz, DMSO+CDCl3, rotamers) δ 7.93 (d, J=8.7 Hz, 1H); 7.82 (s, 1H); 7.41 (d, J=8.7 Hz, 1H); 4.60-4.50 and 3.55-3.35 and 2.80-2.55 (m, 2H); 3.00 and 2.88 (s+s, 3H); 2.10-0.90 ppm (s, 8H).

reactant | N-(trans-4-Azidocyclohexyl)-N-methyl-[2,1,3]-benzoxadiazole-5-carboxamide | 0.6 mmol, 0.18 g | N(=[N+]=[N-])[C@@H]1CC[C@H](CC1)N(C(=O)C1=CC=2C(=NON2)C=C1)C | C14H16N6O2
reactant | Ph3P | 1.0 mmol, 0.26 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | ammonia | 6 ml | N | H3N
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | N-(trans-4-Aminocyclohexyl)-N-methyl-[2,1,3]-benzoxadiazole-5-carboxamide | N[C@@H]1CC[C@H](CC1)N(C(=O)C1=CC=2C(=NON2)C=C1)C | C14H18N4O2
